US04999417
sebacoyl chloride;
adipoyl chloride; terephthaloyl chloride; methyl sebacate; methyl adipate; 1,4-cyclohexane-dicarboxylic acid; succinic, maleic, glutaric, citraconic and itaconic anhydrides: and fumaryl chloride.

reactant | adipoyl chloride | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | methyl sebacate | C(CCCCCCCCC(=O)[O-])(=O)OC
reactant | methyl adipate | C(CCCCC(=O)[O-])(=O)OC
reactant | 1,4-cyclohexane-dicarboxylic acid | C1(CCC(CC1)C(=O)O)C(=O)O | C8H12O4
reactant | fumaryl chloride | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
product | sebacoyl chloride | C(CCCCCCCCC(=O)Cl)(=O)Cl | C10H16Cl2O2
